US08426604B2
5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-thioxo-thiazolidin-4-one was prepared from 1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde and 2-thioxo-thiazolidin-4-one following General Procedure C.

reactant | 1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=O)C=CC(=C1)C(F)(F)F)(F)F | C17H10F6N2O
reactant | 2-thioxo-thiazolidin-4-one | S=C1SCC(N1)=O | C3H3NOS2
product | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-thioxo-thiazolidin-4-one | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)=S)=O)C=CC(=C1)C(F)(F)F)(F)F | C20H11F6N3OS2
